US05284852
2-Butyl-6-[[(methylsulfonyl)oxy]methyl]-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
A stirred solution of 0.250 g of 2-butyl-6-(hydroxymethyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone and 0.246 ml of triethylamine in 5.0 ml of tetrahydrofuran is cooled to -78° C. and 0.137 ml of methanesulfonyl chloride added. The reaction mixture is allowed to warm to room temperature and continue stirring for 18 hours. The reaction mixture is partitioned between chloroform and water. The organic layer is washed with aqueous 5% HCl, water and saturated aqueous sodium bicarbonate then dried with magnesium suflate and evaporated to afford 0.278 g of the desired product. FAB MASS SPEC 787 (M+H).

reactant | 2-butyl-6-(hydroxymethyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.250 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CO | C46H40N6O2
reactant | triethylamine | 0.246 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.137 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 2-Butyl-6-[[(methylsulfonyl)oxy]methyl]-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.278 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)COS(=O)(=O)C | C47H42N6O4S
